US08183281B2
d.) (R)-2-[(R)-1-(5-Methyl-furan-2-yl)-propylamino]-2-phenyl-ethanol
700 ml of 5M H2SO4 are cooled to 5° and 232 g of [(R)-1-(5-Methyl-furan-2-yl)-propyl]-((R)-1-phenyl-2-trimethylsilanyloxy-ethyl)-amine dissolved in 1 l of TBME are added dropwise over a period of 30 minutes at 5-10°. 345 ml of sec-BuOH and 345 ml of H2O are added and the reaction mixture obtained is slowly warmed to rt. The aqueous layer obtained is separated. The organic portion obtained is adjusted to pH 11 with 2.5M NH4OH, the aqueous layer is separated and the organic phases obtained are washed 2× with brine. The aqueous layer obtained are back-extracted with 1 l of EtOAc, the organic portions obtained are combined, dried over Na2SO4, filtered and solvent is evaporated. A residue obtained is dissolved in 500 ml of TBME and 500 ml of H2O and the pH is adjusted to pH 11 with 2.5M NaOH and extracted 2× with 6 l of TBME. The organic portion obtained is dried, filtered and solvent is evaporated. The title compound is obtained.

reactant | H2SO4 | 5M, 700 ml | OS(=O)(=O)O | H2O4S
reactant | [(R)-1-(5-Methyl-furan-2-yl)-propyl]-((R)-1-phenyl-2-trimethylsilanyloxy-ethyl)-amine | 232 g | CC1=CC=C(O1)[C@@H](CC)N[C@@H](CO[Si](C)(C)C)C1=CC=CC=C1 | C19H29NO2Si
reactant | NH4OH | 2.5M | [NH4+].[OH-]
reactant | NaOH | 2.5M | [OH-].[Na+]
solvent | TBME | 1 l | CC(C)(C)OC | C5H12O
solvent | TBME | 500 ml | CC(C)(C)OC | C5H12O
solvent | H2O | 500 ml | O | H2O
solvent | H2O | 345 ml | O | H2O
solvent | sec-BuOH | 345 ml | C(C)(CC)O | C4H10O
product | (R)-2-[(R)-1-(5-Methyl-furan-2-yl)-propylamino]-2-phenyl-ethanol | CC1=CC=C(O1)[C@@H](CC)N[C@@H](CO)C1=CC=CC=C1 | C16H21NO2
